US05660985
To a suspension of uridine (200 g, 819 mmoles) in hexamethylphosphoramide (HMPA) (400 ml) was added sodium bicarbonate (5.3 g, 63.1 mmoles, 0.077 equivalents (eq.)) and diphenyl carbonate (228.1 g, 1064.7 mmoles, 1.3 eq.). The mixture was heated to 135° C. for 11 h. After cooling to room temperature, diethyl ether (2 l) was added and the precipitate was filtered off. The solid was washed three times with ether (3×1 l). Water (1 l) was added to the filtrate, the aqueous layer was separated and extracted three times with methylene chloride (3×l). The aqueous phase was evaporated to dryness. The combined solids were recrystallized from hot methanol to yield 170 g (92%) of 2,2'-anhydrouridine. The spectral properties agreed with those reported in the literature (Hampton and Nichol (1966) Biochemistry 5:2076).

reactant | uridine | 819 mmoles, 200 g | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | C9H12N2O6
reactant | diphenyl carbonate | 1064.7 mmoles, 228.1 g, 1.3 eq. | C(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C13H10O3
reactant | diethyl ether | 2 l | C(C)OCC | C4H10O
solvent | hexamethylphosphoramide | 400 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
catalyst | sodium bicarbonate | 63.1 mmoles, 5.3 g, 0.077 equivalents | C([O-])(O)=O.[Na+]
product | 2,2'-anhydrouridine | 170 g, 92% | C1=CN2[C@H]3[C@H]([C@@H]([C@H](O3)CO)O)OC2=NC1=O | C9H10N2O5
